US04772594
To a solution of β-alanine (56 mg) and sodium bicarbonate (84 mg) in water (10 ml) were added tetrahydrofuran (20 ml) and cholesterol chlorocarbonate (449 mg) at 0° C. The mixture was stirred for 1 hour. The reaction mixture was concentrated in vacuo and to the residue were added 0.1N hydrochloric acid (10 ml) and chloroform (40 ml). Organic layer was separated, washed with water and dried over magnesium sulfate. Evaporation of the solvent gave a crude product, which was dissolved in chloroform and applied to a silica gel column (40 g). Elution with a mixture of chloroform and methanol gave N-(cholest-5-en-3β-oxycarbonyl)-β-alanine (187 mg) as a white powder.

reactant | β-alanine | 56 mg | NCCC(=O)O | C3H7NO2
reactant | sodium bicarbonate | 84 mg | C([O-])(O)=O.[Na+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | cholesterol chlorocarbonate | 449 mg | C(=O)(Cl)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C28H45ClO2
solvent | water | 10 ml | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(cholest-5-en-3β-oxycarbonyl)-β-alanine | 187 mg | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)OC(=O)NCCC(=O)O | C31H51NO4
